US07253196B2
Ethyl 2-(pyridin-4-yl)propanoate
To a solution of LiN(TMS)2 (Aldrich, 1.0 M solution in THF, 30 mL, 30 mmol) in THF (30 mL) was added ethyl 4-pyridylacetate (Aldrich, 4.7 mL, 30 mmol)) at 0° C. Methyl iodide (Aldrich, 2.4 mL, 38 mmol) was added 30 min later. After 1 h, the reaction mixture was concentrated in vacuo. The crude product was purified by silica gel chromatography. Mass Spec. m/z+ion 180 (M+1).

reactant | LiN(TMS)2 | 30 mmol, 1.0 M, 30 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | ethyl 4-pyridylacetate | 30 mmol, 4.7 mL | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | Methyl iodide | 38 mmol, 2.4 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(pyridin-4-yl)propanoate | N1=CC=C(C=C1)C(C(=O)OCC)C | C10H13NO2
